US04865618
Preparation of 3,5-dinitro-2,4-bis(γ-hydroxypropoxy)-chlorobenzene
1 mole (271.5 g) of 3,5-dinitro-1,2,4-trichlorobenzene was added to 700 ml of 1,3-propanediol at 85° C. 2 moles of powdered potassium hydroxide in 280 ml of 1,3-propanediol were added over 30 minutes. The reaction mixture was heated for 1 hour at 85° C. upon completion of the addition. After cooling, the expected product was filtered off, washed with water, and then dissolved in 1.5 liters of ethyl acetate which, after washing with water, was dried over sodium sulphate. After concentration to dryness, a precipitate was obtained which, after having been recrystallized from isopropyl ether, melted at 90° C.

reactant | 3,5-dinitro-1,2,4-trichlorobenzene | 1 mole, 271.5 g | [N+](=O)([O-])C=1C(=C(C=C(C1Cl)[N+](=O)[O-])Cl)Cl | C6HCl3N2O4
reactant | potassium hydroxide | 2 moles | [OH-].[K+]
reactant | 1,3-propanediol | 280 ml | C(CCO)O | C3H8O2
reactant | 1,3-propanediol | 700 ml | C(CCO)O | C3H8O2
product | 3,5-dinitro-2,4-bis(γ-hydroxypropoxy)-chlorobenzene | [N+](=O)([O-])C=1C(=C(C=C(C1OCCCO)[N+](=O)[O-])Cl)OCCCO | C12H15ClN2O8
